US06462049B1
Synthesis of 2-(2-tert-Butyloxazol-4-yl)-3-(5-chloro-1-methyl-3-trifluoromethylpyrazol-4-yl)-3-ethoxymethoxyacrylonitrile (Compound No. V-44)
0.6 g of 2-{2-tert-butyloxazol-4-yl}-3-(5-chloro-3-trifluoromethyl-1-methyl-pyrazol-4-yl)-3-hydroxyacrylonitrile was dissolved in 5 ml of THF, and 0.07 g of 60% sodium hydride was added thereto with cooling with ice, and then stirred for 15 minutes at room temperature. 0.17 g of ethoxymethyl chloride was added thereto and stirred for 6 days at room temperature. The reaction mixture was poured into ice water, extracted with ethyl acetate, and washed with saturated saline. The resulting product was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The resulting residual product was purified through silica gel thin-layer chromatography (ethyl acetate:n-hexane=1:4) to obtain 0.1 g of the intended compound in vitreous state.

reactant | 2-{2-tert-butyloxazol-4-yl}-3-(5-chloro-3-trifluoromethyl-1-methyl-pyrazol-4-yl)-3-hydroxyacrylonitrile | 0.6 g | C(C)(C)(C)C=1OC=C(N1)C(C#N)=C(O)C=1C(=NN(C1Cl)C)C(F)(F)F | C15H14ClF3N4O2
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | ethoxymethyl chloride | 0.17 g | C(C)OCCl | C3H7ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(2-tert-Butyloxazol-4-yl)-3-(5-chloro-1-methyl-3-trifluoromethylpyrazol-4-yl)-3-ethoxymethoxyacrylonitrile | 0.1 g | C(C)(C)(C)C=1OC=C(N1)C(C#N)=C(OCOCC)C=1C(=NN(C1Cl)C)C(F)(F)F | C18H20ClF3N4O3
